US05081243
To 200 ml of ethanol were added 11.8 g (97 mmoles) of ethoxymethylenemalononitrile and 10.5 g (97 mmoles) of 2-amino-3-methylpyridine, and the reaction was carried out with stirring at room temperature for 2 hours. After completion of the reaction, the crystals precipitated were collected by filtration to obtain 13.5 g of 3-cyano-4-imino-9-methyl-4H-pyrido[1,2-a]pyrimidine. Yield: 76%.

reactant | ethoxymethylenemalononitrile | 97 mmoles, 11.8 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 2-amino-3-methylpyridine | 97 mmoles, 10.5 g | NC1=NC=CC=C1C | C6H8N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-cyano-4-imino-9-methyl-4H-pyrido[1,2-a]pyrimidine | 13.5 g, Yield: 76% | C(#N)C1=CN=C2N(C1=N)C=CC=C2C | C10H8N4
